US08710100B2
2-(4-Acetamidophenyl)-2-methoxyacetic acid (7.1 g, 31.8 mmol) was heated with hydrazine monohydrate (40 ml) for 16 hr, cooled and concentrated in vacuo. The resulting residual oil was purified by silica gel column chromatography (eluent 20-40% methanol in CH2Cl2) to give 2.6 g (45%) of (±)-2-methoxy-2-(4′-aminophenyl)-acetic acid 1H NMR (δ, 250 MHz, CD3OD): 3.27 (3H, s), 4.43 (1H, s), 6.66 (2H, d, 8.5 Hz), 7.18 (2H, d, 8.2 Hz).

reactant | 2-(4-Acetamidophenyl)-2-methoxyacetic acid | 31.8 mmol, 7.1 g | C(C)(=O)NC1=CC=C(C=C1)C(C(=O)O)OC | C11H13NO4
solvent | hydrazine monohydrate | 40 ml | O.NN
product | (±)-2-methoxy-2-(4′-aminophenyl)-acetic acid | 2.6 g, 45% | COC(C(=O)O)C1=CC=C(C=C1)N | C9H11NO3
